US04921982
5-Bromo-2,3-dihydro-2,2-dimethylbenzofuran-7-carboxylic acid
The title intermediate was prepared in 20% yield from 2-methyl-2-propenyl 5-bromo-3-(2-methyl-2-propenyl)-2-hydroxybenzoate upon heating at reflux with 90% formic acid.

reactant | 2-methyl-2-propenyl 5-bromo-3-(2-methyl-2-propenyl)-2-hydroxybenzoate | BrC=1C=C(C(=C(C(=O)OCC(=C)C)C1)O)CC(=C)C | C15H17BrO3
solvent | formic acid | C(=O)O | CH2O2
product | 5-Bromo-2,3-dihydro-2,2-dimethylbenzofuran-7-carboxylic acid | 20% yield | BrC=1C=C(C2=C(CC(O2)(C)C)C1)C(=O)O | C11H11BrO3
